US09085782B2
Various enzymes and enzyme preparations (collectively referred to as “enzymes” were evaluated for their ability to cleave stevioside and rebaudioside A to produce steviol. 50 mg Stevia extract RV140-54 (19% Rebaudioside A, 19% Stevioside [w %]), was solubilized in 5 ml buffer pH 4.1 (0.1 mol/l H3PO4+NaOH), 50 μl enzyme solution or 10 mg lyophilized powder; 40° C. (rem 1). Results are shown in Table 1, below.

reactant | stevioside | C[C@@]12CCC[C@@]([C@H]1CC[C@]34[C@H]2CC[C@](C3)(C(=C)C4)O[C@H]5[C@@H]([C@H]([C@@H]([C@H](O5)CO)O)O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O)O)(C)C(=O)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O)O)O | C38H60O18
reactant | rebaudioside A | C[C@@]12CCC[C@@]([C@H]1CC[C@]34[C@H]2CC[C@](C3)(C(=C)C4)O[C@H]5[C@@H]([C@H]([C@@H]([C@H](O5)CO)O)O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O)O)O)O)(C)C(=O)O[C@H]8[C@@H]([C@H]([C@@H]([C@H](O8)CO)O)O)O | C44H70O23
product | steviol | C[C@@]12CCC[C@@]([C@H]1CC[C@]34[C@H]2CC[C@](C3)(C(=C)C4)O)(C)C(=O)O | C20H30O3
